US03993792
a. Furfurylthiol acetate was prepared by reacting acetic chloride or anhydride with furfurylmercaptan according to the method described in Houben-Weyl, 4th ed., vol. 9, 753 (1955). The product has a b.p. of 90°-92° C./12 mm. Hg.

reactant | acetic chloride | C(C)(=O)Cl | C2H3ClO
reactant | furfurylmercaptan | C(C1=CC=CO1)S | C5H6OS
product | Furfurylthiol acetate | CC(=O)SCC1=CC=CO1 | C7H8O2S
